US08802670B2
2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine was reacted with yield 2-[3,4-difluoro-5-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane in general procedure A. Purification on silica yielded 2-[3,4-difluoro-5-(4-methoxy-benzyloxy)-phenyl]-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-yl-thieno[3,2-d]pyrimidine. This was then reacted with trifluoroacetic acid in dichloromethane to yield the desired compound.

reactant | 2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C16H22ClN5OS
reactant | 2-[3,4-difluoro-5-(4-methoxy-benzyloxy)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC=1C=C(C=C(C1F)OCC1=CC=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C | C20H23BF2O4
product | 2-[3,4-difluoro-5-(4-methoxy-benzyloxy)-phenyl]-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-yl-thieno[3,2-d]pyrimidine | FC=1C=C(C=C(C1F)OCC1=CC=C(C=C1)OC)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C30H33F2N5O3S
